US07595320B2
14.5 mg (105 μmol) of potassium carbonate are added to a solution of 0.04 g (70 μmol) of tert-butyl 3-(4-bromobenzoylamino)-5-(N′-methyl-N′-phenylhydrazinocarbonyl)thieno[2,3-c]pyrazole-1-carboxylate in 3 mL of methanol in a microwave oven tube. The tube is stoppered and the reaction mixture is irradiated at a temperature in the region of 180° C. for 3 minutes. The reaction mixture is then concentrated to dryness under vacuum (2 kPa) at a temperature in the region of 35° C. The residue is taken up in dichloromethane, and then in a mixture of 1 mL of methanol, 4 mL of water and 10 mL of ethyl acetate. After separation of the phases by settling, the organic phase is washed twice with 3 mL of water, dried over magnesium sulfate, filtered and then concentrated to dryness under vacuum (2 kPa) at a temperature in the region of 35° C. The residue is taken up in diisopropyl ether, filtered on a sinter funnel, suction-filtered and then dried in an oven under vacuum (0.01 kPa) at a temperature in the region of 40° C. The residue is purified by chromatography on a column of 15 g of silica gel (0.015-0.040 mm), eluting with a dichloromethane/methanol mixture (99/1 by volume, then 98/2 and finally 97/3) at a flow rate of 20 mL/min. The fractions containing the expected product are combined and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 35° C. 18 mg of 4-bromo-N-[5-(N′-methyl-N′-phenylhydrazinocarbonyl)-1H-thieno[2,3-c]pyrazol-3-yl]benzamide are thus obtained in the form of a pale yellow solid melting at 172° C. LC-MS-DAD-ELSD: 468(−)/ . . . =(M−H)(−)/ . . . ; 470(+)/ . . . =(M+H)(+)/ . . . (1 Br present).

reactant | potassium carbonate | 105 μmol, 14.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 3-(4-bromobenzoylamino)-5-(N′-methyl-N′-phenylhydrazinocarbonyl)thieno[2,3-c]pyrazole-1-carboxylate | 70 μmol, 0.04 g | BrC1=CC=C(C(=O)NC=2C3=C(N(N2)C(=O)OC(C)(C)C)SC(=C3)C(=O)NN(C3=CC=CC=C3)C)C=C1 | C25H24BrN5O4S
solvent | methanol | 3 mL | CO | CH4O
product | 4-bromo-N-[5-(N′-methyl-N′-phenylhydrazinocarbonyl)-1H-thieno[2,3-c]pyrazol-3-yl]benzamide | 18 mg | BrC1=CC=C(C(=O)NC=2C3=C(NN2)SC(=C3)C(=O)NN(C3=CC=CC=C3)C)C=C1 | C20H16BrN5O2S
